US04797401
(D) 1-(2-Chloro-4-methanesulphonamidophenyl)-4-(4-methanesulphonamidophenethyl)piperazine
The title compound (0.52 g), was prepared similarly to the procedure of Example 1(C) from methanesulphonyl chloride (0.44 g), 1-(4-amino-2-chlorophenyl)-4-(4-aminophenethyl)piperazine (0.55 g), and pyridine (10 ml).

reactant | methanesulphonyl chloride | 0.44 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1-(4-amino-2-chlorophenyl)-4-(4-aminophenethyl)piperazine | 0.55 g | NC1=CC(=C(C=C1)N1CCN(CC1)CCC1=CC=C(C=C1)N)Cl | C18H23ClN4
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 1-(2-Chloro-4-methanesulphonamidophenyl)-4-(4-methanesulphonamidophenethyl)piperazine | 0.52 g | ClC1=C(C=CC(=C1)NS(=O)(=O)C)N1CCN(CC1)CCC1=CC=C(C=C1)NS(=O)(=O)C | C20H27ClN4O4S2
